US08030317B2
3-Benzyl-5-(2-fluoro-4-nitrophenylamino)-6,8-dimethylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (compound 9D):
3-Benzyl-5-chloro-6,8-dimethylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (7 g, 22.2 mmol, 1 eq), 2-fluoro-4-nitroaniline (53.8 mg, 24.4 mmol, 1.1 eq), tris(dibenzylideneacetone)dipalladium(0) (407 mg, 0.44 mmol, 0.02 eq), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (257 mg, 0.44 mmol, 0.02 eq) and sodium tert-butoxide (3.2 g, 0.33 mmol, 1.5 eq) were mixed in degassed anhydrous dioxane (50 mL) and subjected to microwave irradiation at 115° C. for 40 minutes. Upon cooling diethyl ether (50 mL) was added. A precipitate formed which was filtered and washed with ether to give 4.1 g of the title compound (42%). [M+H] calc'd for C22H18FN5O4, 436; found, 436.

reactant | 3-Benzyl-5-chloro-6,8-dimethylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 22.2 mmol, 7 g, 1 eq | C(C1=CC=CC=C1)N1C=NC2=C(C1=O)C(=C(C(N2C)=O)C)Cl | C16H14ClN3O2
reactant | 2-fluoro-4-nitroaniline | 24.4 mmol, 53.8 mg, 1.1 eq | FC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | sodium tert-butoxide | 0.33 mmol, 3.2 g, 1.5 eq | CC(C)([O-])C.[Na+]
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.44 mmol, 407 mg, 0.02 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.44 mmol, 257 mg, 0.02 eq | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
product | 3-Benzyl-5-(2-fluoro-4-nitrophenylamino)-6,8-dimethylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 4.1 g, 42% | C(C1=CC=CC=C1)N1C=NC2=C(C1=O)C(=C(C(N2C)=O)C)NC2=C(C=C(C=C2)[N+](=O)[O-])F | C22H18FN5O4
